Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypotension in pregnant patient 
 
Major Surgical or Invasive Procedure:
Laparoscopic right salpingectomy for ectopic pregnancy

 
History of Present Illness:
___ year old G2P0 at 6 weeks by LMP presents with acute right
lower quadrant pain. She was doing fine today when all of a
sudden she had an acute episode of pain that caused her to 
double
over. She then went to the bathroom and on the way out felt very
faint. She then collapsed to the group, and while not completely
blacking out, she did almost lose consciousness per observers.

She currently reports some abdominal pain. No lightheadedness
currently. No Chest pain/shortness of breath.

 
Past Medical History:
OBHx: G2P0
- SAB in ___
- Current

PMH: hypothyroidism

PSH: Denies

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incisions 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 06:41PM BLOOD WBC-15.5* RBC-3.38* Hgb-10.0* Hct-29.4* 
MCV-87 MCH-29.6 MCHC-34.0 RDW-13.9 RDWSD-43.2 Plt ___
___ 02:55PM BLOOD WBC-13.0* RBC-4.17 Hgb-11.7 Hct-35.9 
MCV-86 MCH-28.1 MCHC-32.6 RDW-13.9 RDWSD-43.1 Plt ___
___ 02:55PM BLOOD Neuts-72.7* ___ Monos-3.5* 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-9.44* AbsLymp-2.93 
AbsMono-0.46 AbsEos-0.04 AbsBaso-0.05
___ 02:55PM BLOOD Glucose-126* UreaN-10 Creat-0.6 Na-134 
K-3.3 Cl-98 HCO3-21* AnGap-18
___ 02:55PM BLOOD ALT-22 AST-21 AlkPhos-89 TotBili-0.2
___ 05:31PM BLOOD Type-ART pO2-79* pCO2-47* pH-7.27* 
calTCO2-23 Base XS--5
___ 05:31PM BLOOD Glucose-140* Lactate-2.5* Na-131* K-3.9 
Cl-105
___ 05:31PM BLOOD Hgb-9.9* calcHCT-30
___ 05:31PM BLOOD freeCa-1.00*

___: PUS

Exam was performed portably.  Transabdominal imaging was 
markedly limited due to lack of bladder distention.  Several 
images of the uterus were obtained transvaginally.  No definite 
intrauterine gestational sac is seen during real-time imaging 
with the radiology attending present.  There is a small amount 
of complex free fluid in the cul de sac.  During real-time 
imaging, probable hemorrhagic material was noted within the left 
adnexal region.  No normal ovary was identified. 
  
IMPRESSION: No intrauterine gestational sac.  Complex free fluid 
with probable hemorrhagic material in the left adnexae 
concerning for ruptured tubal ectopic.  Findings were discussed 
with ___ staff in person at the time of scanning. 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing laparoscopic right salpingectomy for 
ruptured ectopic pregnancy. Please see the operative report for 
full details.

Patient was scheduled to go home from the PACU, but was admitted 
overnight for observation due to lightheadedness and additional 
pain management. Immediately post-op, her pain was controlled 
with IV dilaudid and toradol. Her foley was removed in the OR 
and she subsequently voided spontaneously. Her diet was advanced 
without difficulty and she was transitioned to oxydone, tylenol, 
and ibuprofen.

*) Anemia: Pre-operatively patient Hct was 35 and 
intraoperatively it was 30. She therefore received 1 unit of PRB 
in the OR. Hct in PACU was 29.4. Patient remained 
hemodynamically stable post-operatively with appropriate urine 
output, normal vitals, and asymptomatic. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Levothyroxine 
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
Do not take more than 4000mg acetaminophen in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*40 Tablet Refills:*2
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*2
3. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*0
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right tubal ectopic pregnancy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the gynecology service after your surgery. 
You have recovered well from your surgery and are safe to go 
home. Please follow these instructions:

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___